### PR TITLE
[Merged by Bors] - feat(CategoryTheory): monomorphisms in Type are stable under coproducts

### PR DESCRIPTION
**Pull request by joelriou**
We develop the API regarding colimit cofans in the category of types, and we apply it in order to show that monomorphisms are stable under coproducts in the category of types.

From https://github.com/joelriou/topcat-model-category

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/Products.lean [hunk 1]
```diff
@@ -437,6 +441,11 @@ abbrev Sigma.map {f g : β → C} [HasCoproduct f] [HasCoproduct g] (p : ∀ b,
     ∐ f ⟶ ∐ g :=
   colimMap (Discrete.natTrans fun X => p X.as)
 
+@[reassoc (attr := simp high)]
+lemma Sigma.ι_map {f g : β → C} [HasCoproduct f] [HasCoproduct g] (p : ∀ b, f b ⟶ g b) (b : β) :
+    Sigma.ι f b ≫ Sigma.map p = p b ≫ Sigma.ι g b:= by
+  simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Products.lean]:
```suggestion
    Sigma.ι f b ≫ Sigma.map p = p b ≫ Sigma.ι g b:= by simp
```

File: Mathlib/CategoryTheory/Limits/Types/Coproducts.lean [hunk 2]
```diff
@@ -22,11 +22,162 @@ Similarly, the binary coproduct of two types `X` and `Y` identifies to
...
+variable (F) in
+/-- The cofan given by a sigma type. -/
+@[simps]
+def sigma : CofanTypes F where
+  pt := Σ (i : C), F i
+  ι := fun ⟨i⟩ x ↦ ⟨i, x⟩
+  ι_naturality := by
+    rintro ⟨i⟩ ⟨j⟩ f
+    obtain rfl : i = j := by simpa using Discrete.eq_of_hom f
+    aesop
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Types/Coproducts.lean]:
```suggestion
    rintro ⟨⟩ ⟨⟩ ⟨⟨⟨rfl⟩⟩⟩
    rfl
```

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/Limits/Types/Coproducts.lean (hunk 2 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Limits/Types/Coproducts.lean]: Maybe your version is actually better, since it uses API instead of the implementation of the discrete category. But in any case the final `aesop` can be changed to `rfl`

Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Types/Coproducts.lean]: Thanks for the suggestion!

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
